US04073770
1,2,2,4-tetramethyl decahydroquinoline was prepared. 36.3 grams (0.2 mole) of 2,2,4-trimethyl decahydroquinoline of about 58% cis structure was placed in a reactor vessel equipped for agitation. Formic acid, 20.2 grams (0.44 mole) was added dropwise to the reactor vessel followed by the slow addition of 17.4 grams of 38% by weight formaldehyde in water solution. After addition, the mix was refluxed at for 4 hours. A 5N sodium hydroxide solution was then added until the mix was basic. Diethyl ether was added and the mix separated out and the ether fraction obtained. The fraction was concentrated and then distilled using a 3 inch Vigreaux column to yield 5.4 grams of a product boiling at 70° C. at 0.6 mm Hg. The NMR spectra of the product was consistent with the desired product, 1,2,2,4-tetramethyl decahydroquinoline. The theoretical carbon, hydrogen, nitrogen analysis for the formula C13H25N is 79.92% carbon, 12.90% hydrogen, and 7.17% nitrogen while measured values were 77.23% carbon, 13.13% hydrogen, and 6.56% nitrogen.

reactant | 2,2,4-trimethyl decahydroquinoline | 0.2 mole, 36.3 grams | CC1(NC2CCCCC2C(C1)C)C | C12H23N
reactant | Formic acid | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1,2,2,4-tetramethyl decahydroquinoline | CN1C(CC(C2CCCCC12)C)(C)C | C13H25N
